US04708733
Preparation of diethyl-2-(2',4',5'-trichloro-phenoxy)-propionyl-malonate
One proceeds in an analogous manner to Example 4 except that 27 g of 2-(2',4',5'-trichloro-phenoxy)-propionic acid are reacted first with 12 g of pivaloyl chloride and thereafter with diethyl-ethoxy-magnesium malonate prepared from 17.6 g of diethyl malonate. The reaction mixture is worked up. Thus 37 g of the desired compound are obtained in the form of pale yellow crystals, yield 91%, mp.: 62°-66° C.

reactant | 2-(2',4',5'-trichloro-phenoxy)-propionic acid | 27 g | ClC1=C(OC(C(=O)O)C)C=C(C(=C1)Cl)Cl | C9H7Cl3O3
reactant | pivaloyl chloride | 12 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | diethyl-ethoxy-magnesium malonate | C(CC(=O)[O-])(=O)[O-].C(C)C(C)(O[Mg+2])CC
reactant | diethyl malonate | 17.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | diethyl-2-(2',4',5'-trichloro-phenoxy)-propionyl-malonate | 37 g, yield 91% | C(C)OC(C(C(=O)OCC)C(C(C)OC1=C(C=C(C(=C1)Cl)Cl)Cl)=O)=O | C16H17Cl3O6
